US05977377
In 200 ml of N,N-dimethylacetamide (DMAC) were dissolved 31.0 g (0.166 mol) of 2-n-butyl-4-chloro-5-formylimidazole and 41.5 g (0.166 mol) of p-bromobenzyl bromide. After this solution was cooled to -10° C., 23.7 g (0.168 mol) of potassium carbonate particles which had a specific surface area of 1.5 m2 /g and in which the content of particles each having a diameter of 74 μm or smaller was 30% by weight were added to the solution over 10 minutes while holding the solution at -10 to -5° C. The resultant mixture was stirred at -10° C. for 2 hours, subsequently heated to room temperature, and then stirred for 2 hours to complete the reaction (which was conducted in an air atmosphere). Thereafter, the reaction mixture was filtered and the filtrate was cooled to 0° C. Thereto was added 320 ml of 15° C. water. The crystals thus precipitated were taken out by filtration to obtain 55.8 g of 2-n-butyl-4-chloro-1-(4-bromobenzyl)-5-formylimidazole having a purity of 99.8% (yield, 98.0%).

reactant | 2-n-butyl-4-chloro-5-formylimidazole | 0.166 mol, 31.0 g | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | p-bromobenzyl bromide | 0.166 mol, 41.5 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | potassium carbonate | 0.168 mol, 23.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 200 ml | CN(C(C)=O)C | C4H9NO
product | 2-n-butyl-4-chloro-1-(4-bromobenzyl)-5-formylimidazole | 55.8 g | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)Br | C15H16BrClN2O
